US04892584
Intermediate 1A: (4,5-dimorpholino-o-benzoquinone)
Pyrocatechol (99.0 g; 0.9 mole) was dissolved in methanol (2.5 l), then morpholine (360 ml; 4.1 mole) and cupric acetate (9.0 g) were added. Air was bubbled through the reaction solution for about 9 hours. The mixture was cooled and filtered; the solid was washed with methanol (1.5 l) and air dried. The yield was 150.3 g (60%).

reactant | Pyrocatechol | 0.9 mole, 99.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | morpholine | 4.1 mole, 360 ml | N1CCOCC1 | C4H9NO
solvent | methanol | 2.5 l | CO | CH4O
product | 4,5-dimorpholino-o-benzoquinone | O1CCN(CC1)C1=CC(C(C=C1N1CCOCC1)=O)=O | C14H18N2O4
